US08003796B2
Preparation of isopropyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
Example 268 was prepared according to procedures described in Example 2 substituting tert-butyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate for tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate in Step A and substituting isopropyl chloroformate for 1,1,1-trifluoropropan-2-yl chloroformate in Step C except that the crude product was purified by flash chromatography (SiO2, 0 to 100% EtOAc in CH2Cl2). 1H NMR (400 MHz, CDCl3) δ ppm 7.67-7.87 (m, 1H), 7.30-7.49 (m, 3H), 6.00 (s, 1H), 4.86-5.11 (m, 1H), 4.53-4.70 (m, 1H), 3.44-3.76 (m, 4H), 1.79-2.15 (m, 4H), 1.26 (s, 6H). MS (ESI) 434 (M+H).

reactant | tert-butyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | ClC=1C(=CC(N(C1)C1=CC(=C(C=C1)C#N)F)=O)OC1CCN(CC1)C(=O)OC(C)(C)C | C22H23ClFN3O4
reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O6S
reactant | 1,1,1-trifluoropropan-2-yl chloroformate | ClC(=O)OC(C(F)(F)F)C | C4H4ClF3O2
product | isopropyl 4-(5-chloro-1-(4-cyano-3-fluorophenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | ClC=1C(=CC(N(C1)C1=CC(=C(C=C1)C#N)F)=O)OC1CCN(CC1)C(=O)OC(C)C | C21H21ClFN3O4
